US08304419B2
A solution of 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile (0.025 g, 0.085 mmol), 4-(methyloxy)benzenesulfonyl chloride, (0.025 g, 0.13 mmol) and DIPEA (0.05 mL, 0.25 mmol) in CH2Cl2 (2 mL) was stirred overnight. The solvent was concentrated and purification was accomplished by RP-HPLC (water/acetonitrile/0.1% TFA). The desired fractions were lyophilized and EtOAc (25 mL) and sat. NaHCO3 (10 mL) were added. The layers were separated and the aqueous layer extracted with EtOAc (2×10 mL). The organic extracts were combined, dried over Na2SO4, filtered and concentrated to afford N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-4-(methyloxy)benzenesulfonamide (0.030 g, 75%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.03 (t, 1H), 7.80 (d, 1H), 7.66 (d, 2H), 7.51 (d, 1H), 7.38 (dd, 1H), 7.32 (t, 1H), 7.15 (dd, 1H), 6.99-7.10 (m, 3H), 3.96 (d, 2H), 3.78 (s, 3H). MS: m/z 485 (M+23).

reactant | 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile | 0.085 mmol, 0.025 g | NCC=1C=CC(=C(C1)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H10Cl2N2O
reactant | 4-(methyloxy)benzenesulfonyl chloride | 0.13 mmol, 0.025 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | DIPEA | 0.25 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-4-(methyloxy)benzenesulfonamide | 0.030 g, 75% | ClC1=C(C=C(C=C1)CNS(=O)(=O)C1=CC=C(C=C1)OC)OC1=CC(=CC(=C1)C#N)Cl | C21H16Cl2N2O4S
